US08735578B2
The following were added to a 250 mL reactor: 3-(2-chloroethyl)quinazoline-4 (3H)-one (1 g, 4.79 mmol), 1-(3-(trifluoromethyl)phenyl) piperazine (1,103 g, 4.79 mmol), sodium carbonate (0.762 g, 7.19 mmol), sodium iodide (0.072 g, 0.479 mmol), ethanol (50 ml) and toluene (150 ml). The reaction medium was kept under agitation and reflux for a period of twenty hours, during which 150 ml of the solvent were removed slowly with the assistance of a Dean-Stark. To the resulting mixture, 100 mL of an aqueous solution of acetic acid were added at 10% and 150 mL of ethyl acetate. The mixture was agitated, the organic phase separated, washed with 2 portions of 50 mL of a 5% sodium bicarbonate solution, dry with MgSO4, filtered and evaporated to dryness, yielding the raw product as a slightly yellowish oil. This oil was dissolved in isopropanol, adding 2 mL of concentrated HCl under agitation to the resulting solution. This agitation was maintained for two hours in order to complete the precipitation of the hydrochloride. The resulting solid was filtered and vacuum dried, yielding 1.45 g of 3-(2-(4-(3-(trifluoromethyl)phenyl)piperazine-1-yl)ethyl)quinazoline-4 (3H)-one hydrochloride (3.3 mmol, yield=69%).

reactant | 3-(2-chloroethyl)quinazoline-4 (3H)-one | 4.79 mmol, 1 g | ClCCN1C=NC2=CC=CC=C2C1=O | C10H9ClN2O
reactant | 1-(3-(trifluoromethyl)phenyl) piperazine | 4.79 mmol, 1,103 g | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | sodium carbonate | 7.19 mmol, 0.762 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.479 mmol, 0.072 g | [I-].[Na+]
reactant | HCl | 2 mL | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(2-(4-(3-(trifluoromethyl)phenyl)piperazine-1-yl)ethyl)quinazoline-4 (3H)-one hydrochloride | 3.3 mmol, 1.45 g, yield=69% | Cl.FC(C=1C=C(C=CC1)N1CCN(CC1)CCN1C=NC2=CC=CC=C2C1=O)(F)F | InChI=1S/C21H21F3N4O.ClH/c22-21(23,24)16-4-3-5-17(14-16)27-11-8-26(9-12-27)10-13-28-15-25-19-7-2-1-6-18(19)20(28)29;/h1-7,14-15H,8-13H2;1H
